US05650411
A mixture of (±)-4-[4-[4-[4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]-1-piperazinyl]phenyl]-2,4-dihydro-2-[2-hydroxy-2-[4-(trifluoromethoxy)phenyl]ethyl]-5-methyl-3H-1,2,4-triazol-3-one (0.0043 mol) was dissolved in dichloromethane (100 ml) upon stirring. A solution of tetrabutylammonium fluoride in tetrahydrofuran (0.0045 mol) was added and the mixture was stirred at room temperature for 15 minutes. Water was added and the mixture was stirred for 30 minutes. The precipitate was filtered off, dried and crystallized from n-butanol, yielding 1.1 g (58.2%) of (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-[2-hydroxy-2-[4-(trifluoromethoxy)-phenyl]ethyl]-5-methyl-3H-1,2,4-triazol-3-one; mp. 230.6° C. (comp. 36).

reactant | (±)-4-[4-[4-[4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]-1-piperazinyl]phenyl]-2,4-dihydro-2-[2-hydroxy-2-[4-(trifluoromethoxy)phenyl]ethyl]-5-methyl-3H-1,2,4-triazol-3-one | 0.0043 mol | CC(C)(C)[Si](OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1C)CC(C1=CC=C(C=C1)OC(F)(F)F)O)=O)(C)C | C34H42F3N5O4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.0045 mol | O1CCCC1 | C4H8O
reactant | Water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-[2-hydroxy-2-[4-(trifluoromethoxy)-phenyl]ethyl]-5-methyl-3H-1,2,4-triazol-3-one | 1.1 g, 58.2% | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1C)CC(C1=CC=C(C=C1)OC(F)(F)F)O)=O | C28H28F3N5O4
